US04074062
A 74.1g (0.1 mole) amount of n-butyl alcohol, 200.2g (2.0 mols) of methyl methacrylate, 187g (2.18 mols) of n-hexane and 0.17 g of hydroquinonemonomethyl ether were added to the apparatus described in Example 1 and were heated and agitated under full reflux to remove water from the reaction system. The amount of water obtained in the reaction solution was 0.001 mol. To the reaction solution was added 0.0035 mol of sodium methylate as a catalyst and the solution was heated and agitated. An azeotropic mixture was n-hexane and methanol fom the upper part (top) of the fractionating tower was obtained and was kept stationary in a decanter. The n-hexane layer which separated was returned to the tower and the methanol layer was removed continuously to advance the reaction. Meanwhile, the temperature at the top of the tower was 56° to 59.8° C and the flask temperature was 83° to 90° C. The results of the experiment were a 98.8% conversion of n-butyl alcohol and a 95.1% yield of n-butyl methacrylate. However, it was found bu gas chromatography that an additive of methylmethacrylate was produced as a by-product as well as a polymer. As soon as this reaction solution was distilled, it polymerized.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-hexane | CCCCCC | C6H14
reactant | ether | 0.17 g | CCOCC | C4H10O
catalyst | sodium methylate | 0.0035 mol | C[O-].[Na+]
solvent | n-butyl alcohol | C(CCC)O | C4H10O
solvent | methanol | CO | CH4O
product | n-butyl methacrylate | 95.1% yield | C(C(=C)C)(=O)OCCCC | C8H14O2
